US09302996B2
By using 5-chloropyrazin-2-ol (700 mg) and tert-butyl hydroxypivalate (1402 mg), the procedure was carried out in the same manner as in Example 1-1) to obtain tert-butyl 3-[(5-chloropyrazin-2-yl)oxy]-2,2-dimethylpropanoate (1294.5 mg).

reactant | 5-chloropyrazin-2-ol | 700 mg | ClC=1N=CC(=NC1)O | C4H3ClN2O
reactant | tert-butyl hydroxypivalate | 1402 mg | OCC(C(=O)OC(C)(C)C)(C)C | C9H18O3
product | tert-butyl 3-[(5-chloropyrazin-2-yl)oxy]-2,2-dimethylpropanoate | 1294.5 mg | ClC=1N=CC(=NC1)OCC(C(=O)OC(C)(C)C)(C)C | C13H19ClN2O3
